US06395766B1
6,6-Dimethyl-3-phenylamino-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one
A suspension of 3-bromo-6,6-dimethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one (50 mg, 0.16mmol), aniline (17 μL, 0.19 mmol), sodium tert-butoxide (18 mg, 0.19 mmol) tris(dibenzylideneacetone)dipalladium (7.2 mg, 0.008mmol) and (R)-(+)-2,2′-bis(diphenylphosphino)-1,1-binaphthyl (9.8 mg, 0.016 mmol) in toluene (3 mL) was heated at reflux for 3 h. The toluene was evaporated and the residue chromatographed on silica gel, eluting with isohexane: EtOAc (9:1→4:1). The title compound (23 mg, 43%) was isolated as a yellow solid. mp 135-138° C. Found: C, 73.98; H, 6.10; N, 12.33%. C21H21N3O0.0.45(H2O): C,74.29; H, 6.50; N, 12.38%. 1H NMR (360 MHz, d6-DMSO) δ 1.07 (6H,s), 2.37 (2H,s), 3.03 (2H,s), 6.81 (1H,t, J=7.4 Hz), 7.08 (2H,d, J=7.7 Hz), 7.25-7.29 (2H,m), 7.41 (1H,dd, J=7.2 and and 4.9Hz), 7.72 (1H,d, J=8.1 Hz), 8.01 (1H,d of t, J=7.6 and 1.8 Hz), 8.16 (1H,s), 8.57-8.60 (1H,m). MS (ES+) 332 (M+1).

reactant | 3-bromo-6,6-dimethyl-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one | 0.16mmol, 50 mg | BrC1=CN(C=2CC(CC(C12)=O)(C)C)C1=NC=CC=C1 | C15H15BrN2O
reactant | aniline | 0.19 mmol, 17 μL | NC1=CC=CC=C1 | C6H7N
reactant | sodium tert-butoxide | 0.19 mmol, 18 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 6,6-Dimethyl-3-phenylamino-1-(pyridin-2-yl)-4,5,6,7-tetrahydroindol-4-one | 23 mg, 43% | CC1(CC(C=2C(=CN(C2C1)C1=NC=CC=C1)NC1=CC=CC=C1)=O)C | C21H21N3O
